data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_321832_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([C:4]([O:6][H:10])=[O:8])[O:5][H:9])([O:7][H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([O:7][H:11])([O:8]/[C:4](=[N:3]/[O:5][H:9])[O:6][H:10])[H:12],57.28196499998006
MR_506513_2,[C:1]([C:2]([N:3]([H:12])[H:13])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([O:8][H:9])[H:14])[H:11])(=[O:7])[H:10]>>[C:1]([C:2]([N:3]([H:12])[H:13])([C:4](=[O:8])[H:14])[H:11])([C:5](=[C:6]([H:16])[H:17])[H:15])([O:7][H:9])[H:10],61.254039999974594
MR_331108_0,[C:1]1([H:5])([H:6])[C:3]([H:8])=[C:2]([H:7])[O:4]1>>[C:1](=[C:3]([C:2](=[O:4])[H:7])[H:8])([H:5])[H:6],24.392179999980783
MR_322331_1,[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[O:7][C:3]([N:6]=[C:4]([H:13])[H:14])([H:8])[O:5]1>>[C:1]([C:2]([N:6]=[C:4]([H:13])[H:14])([H:11])[H:12])([O:5][C:3](=[O:7])[H:8])([H:9])[H:10],66.1974850000135
MR_139198_1,[C:1]([C:2](/[C:7](=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:16])[H:15])([H:13])[H:14])([C:3]([H:17])([H:18])[H:19])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12]>>[C:1]1([C:3]([H:17])([H:18])[H:19])([N:5]([H:9])[H:10])[C:2]([H:13])([H:14])[C:7]1([C:8]([C:4]([H:20])([H:21])[H:22])([N:6]([H:11])[H:12])[H:16])[H:15],69.441659999991
MR_45464_2,[C:1]([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])([C:6](=[O:7])[H:9])[H:8]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([H:8])[C:6]([N:5]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])([H:9])[O:7]1,68.260077499978
MR_524823_0,[C:1]1([N:4]([H:10])[H:11])([H:9])[C:3]2([O:5][N:2]([H:8])[O:6]2)[N:7]1[H:12]>>[C:1]1([N:4]([H:10])[H:11])([H:9])/[C:3](=[N:7]\[H:12])[O:6][N:2]([H:8])[O:5]1,10.966189999956695
MR_245184_2,[C:1]1([O:5][H:9])([O:6][H:10])[N:3]([H:12])[C:2]([H:14])([H:15])[C:4]1([O:7][H:11])[O:8][H:13]>>[C:1]([N:3]([C:2]([C:4]([O:7][H:11])=[O:8])([H:14])[H:15])[H:12])([O:5][H:9])([O:6][H:10])[H:13],66.46919249996955
MR_225593_0,[C:1]([C:2]([H:17])([H:18])[H:19])([C:3]([O:8][H:10])=[O:9])(/[C:4]([N:5]([H:12])[H:13])=[C:7](/[N:6]([H:14])[H:15])[H:16])[H:11]>>[C:1]1([C:2]([H:17])([H:18])[H:19])([H:11])[C:4]([C:3]([O:8][H:10])=[O:9])([N:5]([H:12])[H:13])[C:7]1([N:6]([H:14])[H:15])[H:16],71.52245000001656
MR_324310_0,[C:1]([C:4]([H:19])([H:20])[H:21])([C:5]([H:18])([H:22])[H:23])([N:6]([C:2]([H:12])([H:13])[H:14])/[C:7]([O:8][H:10])=[N:9]/[C:3]([H:15])([H:16])[H:17])[H:11]>>[C:1]([C:4]([H:19])([H:20])[H:21])([C:5]([H:18])([H:22])[H:23])([N:9]([C:3]([H:15])([H:16])[H:17])/[C:7](=[N:6]/[C:2]([H:12])([H:13])[H:14])[O:8][H:10])[H:11],66.8871074999845
MR_414109_1,[N:1](\[N:3]([H:10])[H:11])=[C:5](\[C:6]([C:2]([O:7][H:9])=[O:8])([N:4]([H:12])[H:13])[H:15])[H:14]>>[N:1]([C:2]([O:7][H:9])=[O:8])([N:3]([H:10])[H:11])/[C:5](=[C:6](\[N:4]([H:12])[H:13])[H:15])[H:14],58.05567250002412
MR_624693_2,[C:1]([C:2](=[O:7])[H:9])(/[C:3](=[N:5]\[O:4][H:8])[H:10])=[O:6]>>[C:1]1([O:6])[C@@:3]([C:2](=[O:7])[H:9])([H:10])[N:5]1[O:4][H:8],63.75086249998418
MR_697752_0,[C:1]([C:5](=[C:6]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])/[C:8](=[C:4](\[N:7]([H:11])[H:12])[O:9][H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:8]([H:13])[C:4]([N:7]([H:11])[H:12])([O:9][H:10])[C:6]1([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16],45.13419250001036
MR_479841_0,[C:1]([N:2]([O:3][H:6])[N:4]=[O:5])([H:7])([H:8])[H:9]>>[C:1]([O:5]/[N:4]=[N:2]/[O:3][H:6])([H:7])([H:8])[H:9],57.60387249998772
MR_207029_2,[C:1](/[C:4]([N:2](/[C:3]([N:6]([H:11])[H:12])=[N:7]/[H:13])[N:5]([H:9])[H:10])=[N:8]/[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[N:2]/[N:5]([H:9])[H:10])[N:8](/[C:3]([N:6]([H:11])[H:12])=[N:7]/[H:13])[H:14])([H:15])([H:16])[H:17],73.04915750001427
MR_251135_0,[C:1](/[N:7]=[C:5]([C:3](\[C:2]([H:14])([H:15])[H:16])=[C:4](\[O:6][H:8])[H:9])/[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:4]([O:6][H:8])([H:9])[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5]1[H:10])([H:11])([H:12])[H:13],46.439392499996615
MR_194254_2,[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])([O:7][H:8])[H:10])([H:13])[H:14])(=[O:5])[O:6][H:9]>>[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])=[O:7])([H:13])[H:14])([O:5][H:8])([O:6][H:9])[H:10],58.33428249999841
MR_168737_0,[C:1]([N:4]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:7][C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([N:4]1[C:5]([C:2]([H:13])([H:14])[H:15])([O:8][C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:7]1)([H:10])([H:11])[H:12],58.17991749996011
MR_53809_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:6]/[O:4][H:7])([O:5][H:8])([H:11])[H:12]>>[C:1](=[C:2](\[N:3]([H:9])[H:10])[N:6]([O:4][H:7])[H:12])(\[O:5][H:8])[H:11],62.57429999999417
MR_8210_1,[C:1]([C:3]([N:4]([H:8])[H:9])[C:5](/[C:6](=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[H:11])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C@@:3]1([N:4]([H:8])[H:9])[C:5]([H:10])=[C:6]([H:11])[C@@:7]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],52.11073750001688
